US09029392B2
A degassed mixture of 2-[(hydroxy)(pyridin-3-yl)methyl]acrylic acid ethyl ester (8.2 g, 39.6 mmol), 6-chloro-2-iodoaniline (10.0 g, 39.5 mmol), triethylamine (9 mL, 122 mmol) and palladium(II) acetate (300 mg) in acetonitrile (80 mL) was heated at 70° C. overnight. The mixture was cooled to room temperature and partitioned between ethyl acetate (200 mL) and water (100 mL). The aqueous layer was separated and the organic layer was washed with brine (50 mL), filtered, dried (phase separator) and concentrated in vacuo to give a crude solid. This was washed with a minimum of ice-cold diethyl ether to yield 8-chloro-2-(pyridin-3-yl)-1,4-dihydroquinoline-3-carboxylic acid ethyl ester (10.8 g, 87%) as a white solid. δH (CDCl3) 8.73 (m, 2H), 8.04 (m, 1H), 7.66 (dd, J 7.9, 5.5 Hz, 1H), 7.18 (m, 1H), 7.05 (m, 1H), 6.94 (m, 1H), 6.29 (s, 1H), 3.99 (m, 4H), 1.04 (t, J 7.1 Hz, 3H). LCMS (ES+) 315.0 (M+H)+.

reactant | 2-[(hydroxy)(pyridin-3-yl)methyl]acrylic acid ethyl ester | 39.6 mmol, 8.2 g | C(C)OC(C(=C)C(C=1C=NC=CC1)O)=O | C11H13NO3
reactant | 6-chloro-2-iodoaniline | 39.5 mmol, 10.0 g | ClC1=CC=CC(=C1N)I | C6H5ClIN
reactant | triethylamine | 122 mmol, 9 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 300 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-chloro-2-(pyridin-3-yl)-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 10.8 g, 87% | C(C)OC(=O)C1=C(NC2=C(C=CC=C2C1)Cl)C=1C=NC=CC1 | C17H15ClN2O2
